US09328100B2
To a solution of 2-(5-bromo-2-methylbenzyl)-5-(4-fluorophenyl)thiophene (796 mg, 2.2 mmol) in 2-methyltetrahydrofuran (20 mL) was added dropwise n-butyl lithium (1.63 mL, 2.6 mmol, 1.6 M in hexane) at −76° C. and was then stirred for 30 min. Diisobutylaluminum chloride (4.4 mL, 3.5 mmol, 0.8 M in n-heptane) was added and the mixture was stirred for 1 hour and then warmed to ambient temperature and was stirred overnight. To a suspension of 1,6-anhydro-β-D-glucopyranose (648 mg, 4.0 mmol) in anisole (10 mL) at 0° C. was added dropwise diisobutylaluminum hydride (12 mL, 12 mmol, 1.0 M in toluene) and was then stirred at ambient temperature overnight. This solution was then added to the above prepared aluminum mixture via syringe. The mixture was distilled (external bath temperature was 158° C.) to remove the low-boiling solvents. To the remaining mixture was added anisole (10 mL) and the mixture was heated (external bath temperature was 158° C.) for 22 hours at which time HPLC assay analysis indicated a 42% yield of 1-C-(3-((5-(4-fluorophenyl)thiophen-2-yl)methyl)-4-methylphenyl)-β-D-glucopyranoside.

reactant | 2-(5-bromo-2-methylbenzyl)-5-(4-fluorophenyl)thiophene | 2.2 mmol, 796 mg | BrC=1C=CC(=C(CC=2SC(=CC2)C2=CC=C(C=C2)F)C1)C | C18H14BrFS
reactant | n-butyl lithium | 2.6 mmol, 1.6 M, 1.63 mL | C(CCC)[Li]
reactant | Diisobutylaluminum chloride | 3.5 mmol, 0.8 M, 4.4 mL | [Cl-].C(C(C)C)[Al+]CC(C)C
reactant | 1,6-anhydro-β-D-glucopyranose | 4.0 mmol, 648 mg | [C@H]12[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO2 | C6H10O5
reactant | diisobutylaluminum hydride | 12 mmol, 1.0 M, 12 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | aluminum | [Al] | Al
solvent | 2-methyltetrahydrofuran | 20 mL | CC1OCCC1 | C5H10O
solvent | anisole | 10 mL | C1(=CC=CC=C1)OC | C7H8O
product | canagliflozin | 42% yield | CC=1C=CC(=CC1CC2=CC=C(S2)C=3C=CC(=CC3)F)[C@H]4[C@@H]([C@H]([C@@H]([C@H](O4)CO)O)O)O | C24H25FO5S
